simulator lang=spectre
global 0

// Include Verilog-A module
ahdl_include "cmp_delay.va"

// Parameters
parameters VDD=0.9
parameters VSS=0.0
parameters PERIOD=1n

// Supply voltages
Vdd (vdd 0) vsource dc=VDD
Vss (vss 0) vsource dc=VSS

// 1GHz clock with 50% duty cycle
Vclk (clk 0) vsource type=pulse val0=VSS val1=VDD period=PERIOD rise=10p fall=10p width='PERIOD/2'

// Differential input stimulus - 4 phases with decreasing differential
// Phase 1 (0-4ns): diff=+10mV (vinp=0.505V, vinn=0.495V)
// Phase 2 (4-8ns): diff=+1mV (vinp=0.5005V, vinn=0.4995V)
// Phase 3 (8-12ns): diff=+0.1mV (vinp=0.50005V, vinn=0.49995V)
// Phase 4 (12-16ns): diff=+0.01mV (vinp=0.500005V, vinn=0.499995V)
Vinp (vinp 0) vsource type=pwl wave=[0 0.505 4n 0.505 4n 0.5005 8n 0.5005 8n 0.50005 12n 0.50005 12n 0.500005 16n 0.500005]
Vinn (vinn 0) vsource type=pwl wave=[0 0.495 4n 0.495 4n 0.4995 8n 0.4995 8n 0.49995 12n 0.49995 12n 0.499995 16n 0.499995]

// DUT instance
XDUT (clk vinn vinp out_n out_p lp lm vss vdd) cmp_delay

// Save signals
save clk vinp vinn out_p out_n

// Transient analysis
tran tran stop=16n maxstep=10p
